US09353114B2
Preparation of 3-(R)-(4-Methylphthalimido)piperidine
In a clean round bottom flask, 1000 ml methanol and 200 gm 3-(R)-aminopiperidine dihydrochloride were charged. Cooled the reaction mass to 0-10° C. and added 1850 ml 2.5% methanolic NaOH solution slowly at 0-10° C. Stirred and filtered the inorganic solid, distilled out clear filtrate under vacuum below 45° C. Added 400 ml acetic acid and cooled the reaction mass to room temperature, added 226.1 gm 4-methylphthalic anhydride. Reaction mass was refluxed & then cooled to 25-30° C. Acetone was added to the reaction mass & obtained solid was filtered. Acetone was again added to the solid obtained & refluxed to get uniform slurry. The reaction mass was cooled to 25-30° C. & filtered. Dry wt: 280 gms.

reactant | methanol | 1000 ml | CO | CH4O
reactant | 3-(R)-aminopiperidine dihydrochloride | 200 gm | Cl.Cl.N[C@H]1CNCCC1
reactant | NaOH | 1850 ml | [OH-].[Na+]
reactant | Acetone | CC(=O)C | C3H6O
product | 3-(R)-(4-Methylphthalimido)piperidine | CC=1C=C2C(C(=O)N(C2=O)[C@H]2CNCCC2)=CC1 | C14H16N2O2
